Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o PCOS, pancreatitis, nephrolithiasis p/w colicky 
periumbilical and epigastric pain since 2am. She reports the 
pain is intermittent but sharp, and spreads laterally and 
upward, associated with nausea and vomiting x several episodes.  
When she noticed flecks of blood in the vomitus, she presented 
to the ___ ED for evaluation.  Denies fever, chills, diarrhea, 
constipation, urinary symptoms, or rectal bleeding.  

Patient was in her usual state of good health until symptom 
onset at 2am.  She reports having eaten home cooked steak and 
mushrooms yesterday, denies sick contacts, or recent travel.  
+Flatus today, last BM 4h prior to symptom onset -normal per 
patient. She has never had a colonoscopy.

 
Past Medical History:
Idiopathic pancreatitis age ___ (6 day hospitalization at ___), 
nephrolithiasis, mood disorder.

 
Social History:
___
Family History:
Unknown - patient was adopted.

 
Physical Exam:
Physical Exam upon admission:
Temp: 98.2 HR: 96 BP: 115/75 Resp: 16 O(2)Sat: 100 Normal
Constitutional: Uncomfortable, and actively vomiting clear, 
nonbloody fluid
HEENT: Normocephalic, atraumatic Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluent
Psych: Normal mood

Physical Exam upon discharge:
VS: 98.0, 110/70, 90, 16, 95/RA
HEENT: EOMI
CARDIAC: Normal S1, S2. RRR
PULM: Lungs CTAB. No W/R/R.
ABDOMEN: Soft/mildly tender to deep palpation/nondistended.
EXT: + pedal pulses. No CCE. 
NEURO: AAOx4, normal mentation. 

 
Pertinent Results:
___ 05:26AM BLOOD WBC-8.7 RBC-3.97* Hgb-12.6 Hct-36.8 
MCV-93 MCH-31.6 MCHC-34.1 RDW-12.1 Plt ___
___ 07:45AM BLOOD WBC-16.4* RBC-4.70 Hgb-14.6 Hct-42.7 
MCV-91 MCH-31.1 MCHC-34.2 RDW-12.4 Plt ___
___ 07:45AM BLOOD Neuts-88.1* Lymphs-8.9* Monos-2.7 Eos-0 
Baso-0.2
___ 05:26AM BLOOD Glucose-68* UreaN-10 Creat-0.6 Na-137 
K-4.0 Cl-103 HCO3-24 AnGap-14
___ 07:45AM BLOOD Glucose-139* UreaN-14 Creat-0.6 Na-140 
K-4.2 Cl-104 HCO3-22 AnGap-18
___ 07:45AM BLOOD ALT-33 AST-29 AlkPhos-103 TotBili-0.2
___ 05:26AM BLOOD Calcium-8.8 Phos-3.0 Mg-1.8
___ 05:26AM BLOOD CRP-7.9*

___ PORTABLE ABDOMEN
IMPRESSION:
1.  Relatively featureless dilated loop of small bowel in the 
right abdomen. 
MRE pending.
2.  Residual contrast in the bladder and the renal collecting 
systems two
hours post-CT scan.  Given that the contrast has remained in the 
renal
collecting systems, trend serum creatinine over the next ___ 
hrs.

___ CT ABDOMEN AND PELVIS
IMPRESSION:
Focally abnormal ileum in the pelvis to the right of midline 
with focally
dilated loop of small bowel with some fecal material.  An 
equivocal wall
thickening.  Normal caliber terminal ileum and right colon.  
Query very
early/partial focal obstruction,correlate with history of prior 
abdominal
surgery or inflammatory bowel disease.  Internal hernia is not 
entirely
excluded.  Also correlate with any recent travel or ingestion of 
atypical
cuisine.  Meckel's diverticulum (felt less likely) or underlying 
lymphoma are
also in the differential,.  Mesenteric fluid in the region of 
the abnormal
small bowel, early ischemia cannot be entirely excluded.  
Consider MRE for
further evaluation.
 
Brief Hospital Course:
This is a ___ year old female that presented to the emergency 
room  with abdominal pain, nausea and vomiting, leukocytosis, 
and diffuse abdominal tenderness without overt peritonitis.  She 
was admitted to the Acute Care Service after CT Scan imaging 
revealed concern for mesenteric and mural edema in a loop of 
ileum in the RLQ. The patient was MRE to help differentiate the 
etiology for the concerning loop of bowel, however she could not 
tolerate the procedure. She was kept NPO, received IV fluids and 
had serial abdominal exams. ESR and CRP labs were drawn at the 
time of admission. Stool studies were ordered however the 
patient did not have a bowel movement prior to discharge; she 
was passing flatus. 

The patient was discharged on ___ after her exam improved 
and she was tolerating a regular diet without experiencing 
nausea or vomiting. Her lab values were all within normal limits 
except for a slightly elevated CRP in light of inflammation. A 
followup appointment with a new Primary Care Physican was 
scheduled to take place within 1 week of discharge, and the 
patient was given the ___ clinic's information in case she 
experienced any new symptoms after discharge. 

 
Medications on Admission:
lamictal
xanax
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after you experienced 
abdominal pain. You were treated with IV Fluids and bowel rest, 
until you underwent an MRE. Because you had difficulty 
tolerating the procedure, we continued to treat you 
conservatively and your pain improved. Upon discharge, you were 
able to tolerate a regular diet and had return of bowel 
function. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___